Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[O:1],3.95906859296
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-5.89990817681
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:1].[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],7.342940471219999
[C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10],-4.9776572586
[H:1][O:2][C:3]([H:4])[O:5][H:6]>>[H:1][O:2][C:3][O:5][H:6].[H:4],2.52947569721
[C:1]=[C:2]([H:3])[C@@:5]([H:6])([O:7][H:8])[C:9](=[O:10])[H:11].[H:4]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9](=[O:10])[H:11],-1.76959447967
[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.33008085104
[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.72211393299
[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-2.40515826209
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],2.9825035650700005
[H:1][C:2]([H:3])[C@:4]([H:5])([C:6][C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]#[C:7][H:8])[C:12]([H:13])([H:14])[H:15],3.20998072331
[C:1][O:2][C:3]#[C:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.10420580957
[H:1][C:2]#[C:3][O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.1853222476400003
[C:1][O:2][C:3]=[C:4]=[O:5]>>[C:1]=[O:2].[C:3][C:4][O:5],-0.77044534831
[C:1]#[C:2][O:3][C:4](=[O:5])[H:6].[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([O:3][C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[H:10],-3.45032712352
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[O:10].[H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11],-1.80814266419
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8]>>[C:1].[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8],6.49705966168
[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[O:2]>>[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],1.15286009572
[C:6]([H:7])([H:8])=[C:9][C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-0.33920630803
[H:1].[O:2]=[C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-2.59256658813
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3][H:4],3.55857117987
[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][H:8]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])[H:11],-5.58002775788
[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-6.13958911146
[O:1].[O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-2.77379510321
[C:1]#[C:6][C:7]([H:8])([H:9])[H:10].[C:2]([H:3])([H:4])=[C:5]>>[C:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-2.66677621873
[C:1][C:2]([H:3])([H:4])[O:5][C:6]=[C:8]([H:9])[H:10].[H:7]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-4.8551372953500005
[H:1][C:2]#[C:3][C:5]([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.37897576627
[H:12].[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-2.04247791971
[C:5]([H:6])#[C:7][C:8]([H:9])[H:10].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-3.72075402876
[C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-5.49111721114
